US07977344B2
(2,2-Dimethyltetrahydro-2H-pyran-4-yl)methyl methanesulfonate
(2,2-Dimethyltetrahydro-2H-pyran-4-yl)methanol (2.54 g) was dissolved in dry DCM (40 mL) and triethylamine (4.9 mL) was added with stirring. The solution was cooled (ice bath) under nitrogen and methanesulphonyl chloride (1.77 mL) was added dropwise over 5 mins. The mixture was allowed to warm slowly to room temperature as the ice bath melted and was left for 16 h. The mixture was shaken with saturated sodium bicarbonate solution and the aqueous layer was extracted with DCM (×2). The combined organics were washed with brine, dried using a hydrophobic frit and evaporated to give the title compound (3.93 g).

reactant | (2,2-Dimethyltetrahydro-2H-pyran-4-yl)methanol | 2.54 g | CC1(OCCC(C1)CO)C | C8H16O2
reactant | triethylamine | 4.9 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 1.77 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | (2,2-Dimethyltetrahydro-2H-pyran-4-yl)methyl methanesulfonate | 3.93 g | CS(=O)(=O)OCC1CC(OCC1)(C)C | C9H18O4S
